US08729263B2
A mixture of 1-bromo-4-iodo-2-methoxybenzene (3.99 g, 12.75 mmol), 3-nitro-1H-pyrazole (1.730 g, 15.30 mmol), Salicylaldoxime (0.350 g, 2.55 mmol), Cu2O (0.146 g, 1.020 mmol) and Cs2CO3 (6.23 g, 19.13 mmol) in DMF (13 mL) was degassed with N2 and heated at 95° C. overnight. After cooling to RT, the mixture was filtered through celite and rinsed with EtOAc. The filtrate was washed with water and brine. The organic solution was dried over Na2SO4, filtered and concentrated in vacuo. The residue was suspended in 5% MeOH/DCM, and the precipitate filtered, rinsed with 5% MeOH/DCM, and dried to give 2.3 g of 1-(4-bromo-3-methoxyphenyl)-3-nitro-1H-pyrazole as a white solid. The filtrate from the above work up was purified by silica gel chromatography (EtOAc/Heptane=10:90 to 50:50) to give an additional 760 mg of 1-(4-bromo-3-methoxyphenyl)-3-nitro-1H-pyrazole as a light yellow solid.

reactant | 1-bromo-4-iodo-2-methoxybenzene | 12.75 mmol, 3.99 g | BrC1=C(C=C(C=C1)I)OC | C7H6BrIO
reactant | 3-nitro-1H-pyrazole | 15.30 mmol, 1.730 g | [N+](=O)([O-])C1=NNC=C1 | C3H3N3O2
reactant | Salicylaldoxime | 2.55 mmol, 0.350 g | C(C=1C(O)=CC=CC1)=NO | C7H7NO2
reactant | Cs2CO3 | 19.13 mmol, 6.23 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 1-(4-bromo-3-methoxyphenyl)-3-nitro-1H-pyrazole | 2.3 g | BrC1=C(C=C(C=C1)N1N=C(C=C1)[N+](=O)[O-])OC | C10H8BrN3O3
